US07829580B2
A solution of (E)-4-(acetylsulfanyl)-3-({1-[2-(t-butoxycarbonylamino)ethyl]-1H-pyrazol-3-yl}methylidene)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine (479 mg) in 4 N hydrogen chloride (in dioxane, 8 ml) was stirred at room temperature for one hour. The solvent and hydrogen chloride were removed in vacuo, and the residue was purified by chromatography on silica gel using a mixture of in ethanol and dichloromethane (2:98 to 20:80) as eluents to afford (E)-4-(acetylsulfanyl)-3-{[1-(2-aminoethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine dihydrochloride as a pale brown amorphous solid (450 mg). A part of the above compound (104.2 mg) was dissolved in ethanol (4 ml), and hydrogen chloride gas was passed therethrough with stirring at 0° C., and the resulting mixture was stirred under tightly sealed condition at room temperature for 5 hours. The solvent was removed in vacuo, and the residue was purified by chromatography on silica gel using a mixture of ethanol and dichloromethane (5:95 to 25:75) as the eluent to afford the title compound as a colourless amorphous solid (86.3 mg, overall yield: 90%).

reactant | (E)-4-(acetylsulfanyl)-3-({1-[2-(t-butoxycarbonylamino)ethyl]-1H-pyrazol-3-yl}methylidene)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine | 479 mg | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CCNC(=O)OC(C)(C)C | C29H37FN4O4S
reactant | hydrogen chloride | 4 N, 8 ml | Cl | ClH
product | (E)-4-(acetylsulfanyl)-3-{[1-(2-aminoethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine dihydrochloride | 450 mg | Cl.Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CCN | InChI=1S/C24H29FN4O2S.2ClH/c1-16(30)32-22-9-11-28(15-18(22)14-19-8-12-29(27-19)13-10-26)23(24(31)17-6-7-17)20-4-2-3-5-21(20)25;;/h2-5,8,12,14,17,22-23H,6-7,9-11,13,15,26H2,1H3;2*1H/b18-14+;;
